US07678917B2
In analogy to example 15C, (1SR,3RS,4SR)-3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-4-hydroxy-cyclopentanecarboxylic acid methyl ester was reacted with 4-(4-amino-phenyl)-morpholin-3-one (CAS 438056-69-0) to give 5-chloro-thiophene-2-carboxylic acid {(1RS,2SR,4SR)-2-hydroxy-4-[4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-cyclopentylmethyl}-amide. Orange solid. MS: 478.3 ([M+H]+).

reactant | (1SR,3RS,4SR)-3-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-4-hydroxy-cyclopentanecarboxylic acid methyl ester | COC(=O)C1CC(C(C1)O)CNC(=O)C=1SC(=CC1)Cl | C13H16ClNO4S
reactant | 4-(4-amino-phenyl)-morpholin-3-one | NC1=CC=C(C=C1)N1C(COCC1)=O | C10H12N2O2
product | 5-chloro-thiophene-2-carboxylic acid {(1RS,2SR,4SR)-2-hydroxy-4-[4-(3-oxo-morpholin-4-yl)-phenylcarbamoyl]-cyclopentylmethyl}-amide | OC1C(CC(C1)C(NC1=CC=C(C=C1)N1C(COCC1)=O)=O)CNC(=O)C=1SC(=CC1)Cl | C22H24ClN3O5S
